US04126635
Sodium 2-Amino-3-benzoylphenylacetate Hydrate
A stirred solution of 111 g. of 2-amino-3-benzoylphenylacetic acid in 777 ml. of tetrahydrofuran was treated with 31.3 g. of 50% sodium hydroxide solution. The sodium salt began to separate after 15 minutes. After 3 hours stirring using an ice bath, the sodium salt was collected and dried (64.0 g., m.p. 245°-252° C.). The salt was recrystallized by adding 1 gm. of salt to 10 ml. of refluxing 95% ethanol followed by the addition of 5 ml. of hot isopropyl ether. After several hours cooling the salt is collected and air dried. The recrystallized salt (90% recovery) melted at 254°-255.5° C.

reactant | 2-amino-3-benzoylphenylacetic acid | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)O | C15H13NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Sodium 2-Amino-3-benzoylphenylacetate Hydrate | O.NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)[O-].[Na+] | InChI=1S/C15H13NO3.Na.H2O/c16-14-11(9-13(17)18)7-4-8-12(14)15(19)10-5-2-1-3-6-10;;/h1-8H,9,16H2,(H,17,18);;1H2/q;+1;/p-1
